US05753664
7-[4-(4-Chlorobenzoyl)benzyl]-3-methyl-1-propylxanthine
A solution of 3-methyl-7-[4-(4-chlorobenzoyl)benzyl]xanthine (657 mg), potassium carbonate (242 mg) and propyl iodide (427 mg) in DMF (10 ml) was stirred at 60° C. for 5 hours. This reaction mixture was poured in water and extracted with ethyl acetate. The extract was washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (hexane-ethyl acetate =1:1) and recrystallized from ethyl acetate to provide the title compound as colorless solid (352 mg).

reactant | 3-methyl-7-[4-(4-chlorobenzoyl)benzyl]xanthine | 657 mg | CN1C(NC(C=2N(C=NC12)CC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)=O)=O)=O | C20H15ClN4O3
reactant | potassium carbonate | 242 mg | C([O-])([O-])=O.[K+].[K+]
reactant | propyl iodide | 427 mg | C(CC)I | C3H7I
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-[4-(4-Chlorobenzoyl)benzyl]-3-methyl-1-propylxanthine | 352 mg | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC=4N(C(N(C(C34)=O)CCC)=O)C)C=C2)C=C1 | C23H21ClN4O3
